US04929622
3-Cyclopropylmethyl-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-8H-pyrrolo[2,3-i][3]benzazocine
To a stirred solution of 0.99 g of 6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-8H-pyrrolo[2,3-i][3]benzazocine and 18 ml of dimethylformamide was added 1.44 ml of diisopropylethyl amine. Cyclopropylmethyl bromide (0.48 ml) was added, under nitrogen, and the reaction mixture was heated at 82°-83° C. for 6 hr. The reaction mixture was cooled to room temperature and was poured into ethyl acetate and water. The layers were separated and the aqueous layer extracted with ethyl acetate and ether. The combined organic layers were washed with water and brine, dried over anhydrous potassium carbonate, filtered, and concentrated. The residue was purified by flash column chromatography (silica gel, 2% triethylamine/0-15% methanol/ethyl acetate), a second column (silica gel, 2% triethylamine/ethyl acetate), and a third column (silica gel, 1% triethylamine/ether) to afford 0.28 g (23%) of the product, as an oil, which crystallized upon trituration with ether. Recrystallization from ether-pentane gave the analytical sample, mp 164°-166° C.

reactant | 6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-8H-pyrrolo[2,3-i][3]benzazocine | 0.99 g | CC12CC3=C(C=CCN1)C=C1C(C3)CC(N1)C2C | C16H22N2
reactant | dimethylformamide | 18 ml | CN(C=O)C | C3H7NO
reactant | diisopropylethyl amine | 1.44 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Cyclopropylmethyl bromide | 0.48 ml | C1(CC1)CBr | C4H7Br
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Cyclopropylmethyl-6,12-dimethyl-1,2,3,4,5,6-hexahydro-2,6-methano-8H-pyrrolo[2,3-i][3]benzazocine | 0.28 g, 23% | C1(CC1)CC1C2NC=3C1CC1=C(C=CCNC(C1)(C2C)C)C3 | C20H28N2
